US09315763B2
(a) Synthesis of bis[(1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)oxalate
Oxalyl chloride (12.1 g, 96.2 mmol) was added dropwise during 20 min to a stirred solution of (−)-menthol (30.0 g, 192.0 mmol) in pyridine (240 mL) at 0° C. The reaction mixture was allowed to warm up to room temperature overnight, then added to H2SO4 (50%, containing ice, 400 mL), extracted with ether (400 mL and 200 mL), treated again with H2SO4 (50%, containing ice, 400 mL), washed with a saturated solution of NaCl (200 mL) and a saturated solution of NaHCO3 (200 mL, 2×). The organic layer was dried (Na2SO4) and concentrated. Column chromatography (SiO2, heptane/diethyl ether 9:1) gave, after drying under vacuum (0.5 mbar, 1 h), 26.2 g (74%) of an oil.

reactant | Oxalyl chloride | 96.2 mmol, 12.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (−)-menthol | 192.0 mmol, 30.0 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
reactant | H2SO4 | 400 mL | OS(=O)(=O)O | H2O4S
solvent | pyridine | 240 mL | N1=CC=CC=C1 | C5H5N
product | bis[(1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)oxalate | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OC(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)=O | C22H38O4
